US05143633
EXAMPLE G: Primene 81-R/molybdenum complex
Primene 81-R is a mixture of two monoamines, 1-amino-1,1-dimethyldecane and 1-amino-1,1-dimethyldodecane. 15.75 g of a pasty blue product containing 12.5% of molybdenum are collected.

reactant | Primene 81-R | CC(C)(C)CCCCCCCN | C11H25N
reactant | 1-amino-1,1-dimethyldecane | NC(CCCCCCCCC)(C)C | C12H27N
reactant | 1-amino-1,1-dimethyldodecane | NC(CCCCCCCCCCC)(C)C | C14H31N
reactant | molybdenum | [Mo] | Mo
product | Primene 81-R molybdenum | CC(C)(C)CCCCCCCN.[Mo] | InChI=1S/C11H25N.Mo/c1-11(2,3)9-7-5-4-6-8-10-12;/h4-10,12H2,1-3H3;
